US04870075
The crude methyl 3-hydroxy-2-(2'-benzyloxyphenyl)propenoate was dissolved in dry DMF (100 ml) and potassium carbonate (29.0 g) was added in one portion. Dimethyl sulphate (16.00 g) in dry DMF (10 ml) was then added dropwise with stirring. After ninety minutes, water (300 ml) was added and the solution was extracted with ether (2×300 ml). After washing with water (3×150 ml) and brine, the extracts were dried and concentrated under reduced pressure, and the resulting yellow oil solidified on trituation with ether/petrol. Recrystallization from dry methanol afforded E-methyl 3-methoxy-2-(2'-benzyloxyphenyl)propenoate as a white, crystalline solid (5.44 g, 17% yield from methyl 2-bemnzyloxyphenylacetate), M.P. 76°-77° C.; infrared maxima (nujol mull): 1710, 1640 cm-1 ; 1H nmr (CDCl3, 90 MHz): delta 3.63 (3H, s), 3.75 (3H, s), 5.05 (2H, s), 6.80-7.40 (9H, m), 7.50 (1H, s) ppm.

reactant | methyl 3-hydroxy-2-(2'-benzyloxyphenyl)propenoate | OC=C(C(=O)OC)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C17H16O4
reactant | potassium carbonate | 29.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethyl sulphate | 16.00 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 300 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | E-methyl 3-methoxy-2-(2'-benzyloxyphenyl)propenoate | 17% yield | CO/C=C(/C(=O)OC)\C1=C(C=CC=C1)OCC1=CC=CC=C1 | C18H18O4
